US04846882
To a stirred mixture of 1.95 g (0.0219 mole) of N-methoxyacetamide, 1.23 g 0.022 mole) of powdered potassium hydroxide, and a small amount (~0.05 g) of 18-crown-6 in 10 ml of tetrahydrofuran was added a solution of 5.05 g (0.0226 mole) of 4-fluoro-2-chlorobenzyl bromide in 15 ml of tetrahydrofuran. This mixture was heated at reflux for approximately 17 hours and then was allowed to cool to room temperature. The mixture was diluted with 125 ml of diethyl ether and was washed with an aqueous, saturated sodium chloride solution. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving a yellow oil. This oil was purified by column chromatography on silica gel, eluting with ethyl acetate:n-heptane (25:75) followed by ethyl acetate:n-heptane (50:50) , to yield 1.7 g of N-(2-chloro-4-fluoro-benzyl)-N-methoxyacetamide as an oil.

reactant | N-methoxyacetamide | 0.0219 mole, 1.95 g | CONC(C)=O | C3H7NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-fluoro-2-chlorobenzyl bromide | 0.0226 mole, 5.05 g | FC1=CC(=C(CBr)C=C1)Cl | C7H5BrClF
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
catalyst | 18-crown-6 | ~0.05 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | N-(2-chloro-4-fluoro-benzyl)-N-methoxyacetamide | 1.7 g | ClC1=C(CN(C(C)=O)OC)C=CC(=C1)F | C10H11ClFNO2
